US05736550
e) 3-(p-Fluorobenzylamino)-6-phenyl-5-oxahexylamine
To a suspension of lithium aluminum hydride (136 mg, 3.58 mmol) in diethyl ether (10 ml) was added under ice-cooling conc. sulfuric acid (0.15 ml, 1.5 mmol) and, after stirring for 0.5 hour, a solution of 3-(p-fluorobenzylamino)-6-phenyl-5-oxahexanenitrile (300 mg, 1.01 mmol) in diethyl ether (5 ml) was added dropwise and the mixture was heated under reflux for one hour. After cooling, aqueous ammonia (2 ml) was added under ice-cooling to the reaction mixture and stirred for 2 hours. The reaction mixture was filtered with Celite and the filtrate was distilled off under reduced pressure. The residue was chromatographed using silica gel column to give the title compound as a colorless oily substance from the fraction from methanol-chloroform-aqueous ammonia (90/10/0.5). Yield=82%.

reactant | lithium aluminum hydride | 3.58 mmol, 136 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 1.5 mmol, 0.15 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-(p-fluorobenzylamino)-6-phenyl-5-oxahexanenitrile | 1.01 mmol, 300 mg | FC1=CC=C(CNC(CC#N)COCC2=CC=CC=C2)C=C1 | C18H19FN2O
reactant | ammonia | 2 ml | N | H3N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 3-(p-Fluorobenzylamino)-6-phenyl-5-oxahexylamine | Yield=82% | FC1=CC=C(CNC(CCN)COCC2=CC=CC=C2)C=C1 | C18H23FN2O
